US08426447B2
A 25 mL RBF containing a solution of (S)—N-(2′-amino-7′-methoxy-5H-spiro[oxazole-4,9′-xanthene]-2-yl)-2,2,2-trifluoroacetamide (0.058 g, 0.147 mmol), 5-chloropyridine-2-carboxylic acid (0.030 g, 0.190 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.045 g, 0.235 mmol) in DCM (4 mL) and DMF (0.25 mL) was treated with 1-hydroxy-1H-benzotriazole (0.014 g, 0.104 mmol) and stirred for 1.5 hrs at RT. The reaction was diluted with DCM (50 mL) and water (15 mL). The DCM layer was separated, dried over anhydrous sodium sulfate, and concentrated to dryness to yield (S)-5-chloro-N-(2′-methoxy-2-(2,2,2-trifluoroacetamido)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl)picolinamide as a brownish solid. MS (ESI pos. ion) m/z: 533 (M+1).

reactant | (S)—N-(2′-amino-7′-methoxy-5H-spiro[oxazole-4,9′-xanthene]-2-yl)-2,2,2-trifluoroacetamide | 0.147 mmol, 0.058 g | NC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OC)N=C(OC3)NC(C(F)(F)F)=O | C18H14F3N3O4
reactant | 5-chloropyridine-2-carboxylic acid | 0.190 mmol, 0.030 g | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.235 mmol, 0.045 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-1H-benzotriazole | 0.104 mmol, 0.014 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | (S)-5-chloro-N-(2′-methoxy-2-(2,2,2-trifluoroacetamido)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl)picolinamide | ClC=1C=CC(=NC1)C(=O)NC1=CC=C2OC=3C=CC(=CC3[C@]3(C2=C1)N=C(OC3)NC(C(F)(F)F)=O)OC | C24H16ClF3N4O5
